US08293909B2
Step 5: Preparation of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoic acid.
NaOH (0.297 mL, 0.297 mmol, 1M aq.) was added to a stirring solution of methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoate (24 mg, 0.059 mmol) in MeOH (2 mL) at room temperature. It was allowed to stir overnight. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the expected product 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoic acid (22 mg, 0.056 mmol, 95% yield) consistent by LCMS. LC-MS retention time: 0.90 min; m/z (MH+): 391. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | NaOH | 0.297 mmol, 1M, 0.297 mL | [OH-].[Na+]
reactant | methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoate | 0.059 mmol, 24 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)OC)C=CC2)O1)C(NC)=O | C23H17FN2O4
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 0.056 mmol, 22 mg, 95% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)O)C=CC2)O1)C(NC)=O | C22H15FN2O4
